US04484004
In a manner analogous to that described in Example 1(a), 495 g (3.41 mols) of N-benzylidene-propenylamine is reacted with 1,3-butadiene. The reaction mixture is distilled to yield 750 g (2.97 mols) of 3-methyl-12-phenyl-1-aza-1,5,9-cyclododecatriene as a cis-trans isomeric mixture (cis:trans=65:35); b.p. 112°-113° C./1 Pa; nD20 =1.5505; m.p. (cis isomer)=57°-58° C.

reactant | N-benzylidene-propenylamine | 3.41 mols, 495 g | C(C1=CC=CC=C1)=NC=CC | C10H11N
reactant | 1,3-butadiene | C=CC=C | C4H6
product | 3-methyl-12-phenyl-1-aza-1,5,9-cyclododecatriene | 2.97 mols, 750 g | CC1C=NC(CC=CCCC=CC1)C1=CC=CC=C1 | C18H23N
